US07652049B2
Methyl[3,5-bis(trifluoromethyl)phenyl](hydroxy)acetate (300 mg, 0.993 mmol) was dissolved in CH2Cl2 (10 mL). The solution was cooled to 0° C. and CBr4 (659 mg, 1.986 mmol) was added followed by PPh3 (521 mg, 1.986 mmol). After 1 hour, the reaction was warmed to room temperature and stirred at room temperature for 1 hour. The reaction was filtered through a short plug of silica gel with CH2Cl2. The filtrate was concentrated and the residue was purified by flash chromatography with 5% EtOAc/hexanes to afford methyl[3,5-bis(trifluoromethyl)phenyl](bromo)acetate. Rf=0.24 (5% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 8.02 (s, 2H), 7.87 (s, 1H), 5.41 (s, 1H), 3.83 (s, 3H).

reactant | Methyl[3,5-bis(trifluoromethyl)phenyl](hydroxy)acetate | 0.993 mmol, 300 mg | COC(C(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C11H8F6O3
reactant | CBr4 | 1.986 mmol, 659 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 1.986 mmol, 521 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl[3,5-bis(trifluoromethyl)phenyl](bromo)acetate | COC(C(Br)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C11H7BrF6O2
